US04575511
Trans-6-Cyano-3,4-dihydro-2,2-dimethyl-4-(N-methylureido)-2H-1-benzopyran-3-ol (E2)
Trans-4-amino-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol (2.00 g) in dichloromethane (30 ml) was added dropwise to a stirred solution of methyl isocyanate (0.54 ml) in dichloromethane (15 ml), the temperature being maintained at below 10° C. After 15 min a white precipitate formed and the reaction mixture was allowed to reach room temperature. The solid was filtered and recrystallised from dichloromethane to give the title compound (1.30 g) as crystals of m.p. 143°-146° C.

reactant | Trans-4-amino-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | 2.00 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | methyl isocyanate | 0.54 ml | CN=C=O | C2H3NO
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | Trans-6-Cyano-3,4-dihydro-2,2-dimethyl-4-(N-methylureido)-2H-1-benzopyran-3-ol | 1.30 g | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N(C(=O)N)C)C1 | C14H17N3O3
